US08211908B2
To a solution of 2.7 g of N-(1,3-dioxolan-2-ylmethyl)-6-methoxy-3-nitropyridin-2-amine in 30 mL of ethanol, 0.81 g of 10% palladium-carbon was added at room temperature, and mixture was stirred at 40° C. for 2 hours 30 minutes under a hydrogen atmosphere. The reaction mixture was cooled to room temperature, the insoluble substance was filtered off, and the filtration residue was washed with diethyl ether. The solvent was distilled off under reduced pressure to obtain 2.4 g of 3-amino-2-(1,3-dioxolan-2-ylmethyl)amino-6-methoxypyridine as a purple solid.

reactant | N-(1,3-dioxolan-2-ylmethyl)-6-methoxy-3-nitropyridin-2-amine | 2.7 g | O1C(OCC1)CNC1=NC(=CC=C1[N+](=O)[O-])OC | C10H13N3O5
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.81 g | [C].[Pd]
product | 3-amino-2-(1,3-dioxolan-2-ylmethyl)amino-6-methoxypyridine | 2.4 g | NC=1C(=NC(=CC1)OC)NCC1OCCO1 | C10H15N3O3
